US04435322
61.7 g. (0.149 moles) of diethyl N-benzyl-N-(2,4-dimethoxybenzyl)-amino-malonate prepared according to Example 7(b) are hydrogenated in the presence of 20 g. of palladium-on-charcoal, in 500 ml. of ethanol, under atmospheric pressure. The catalyst is filtered off and the filtrate is evaporated. 47.1 g. (97%) of diethyl N-(2,4-dimethoxybenzyl)-amino-malonate are obtained. If desired, the product is converted into the corresponding hydrochloride, which melts at 122° to 124° C. (EtOAc).

reactant | diethyl N-benzyl-N-(2,4-dimethoxybenzyl)-amino-malonate | 0.149 moles | C(C1=CC=CC=C1)N(CC1=C(C=C(C=C1)OC)OC)C(C(=O)OCC)C(=O)OCC | C23H29NO6
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | diethyl N-(2,4-dimethoxybenzyl)-amino-malonate | 97% | COC1=C(CNC(C(=O)OCC)C(=O)OCC)C=CC(=C1)OC | C16H23NO6
